US07919468B2
compound NR66. Saponification of N-Boc-Tyr(Bn)-Ala-Trp-OMe (580 mg, 0.902 mmol) in THF (5 mL) by 1 M aqueous LiOH (2 mL, 2 mmol) at 4° C. for 1 hour, afforded after acidic treatment and precipitation of the residue with water crude N-Boc-Tyr(Bn)-Gly-Trp-OH. The crude product in MeOH (0.5 mL) was treated by dicyclohexylamine (0.18 mL, 0.91 mmol) and then ether (10 mL). After filtration, the resulting solid was dissolved in CH2Cl2 (10 mL) and washed by 10% aqueous citric acid. The organic phase was dried over MgSO4 and concentrated to afford N-Boc-Tyr(Bn)-Ala-Trp-OH (361 mg, 64%) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 1.20 (d, J=7 Hz, 3H, CH3), 1.28 (s, 9H, (CH3)3), 2.62 and 2.86 (ABX system, 2H, CH2β), 3.09 and 3.18 (ABX system, 2H, CH2β), 4.10 (m, 1H, CHα), 4.35 (m, 1H, CHα), 4.46 (m, 1H, CHα), 5.03 (s, 2H, CH2 (OBn)), 6.87-7.54 (m, 15H, 14 aromatic H+1 NH), 7.96 (d, J=7.5 Hz, 1H), 8.13 (d, J=7.5 Hz, 1H), 10.84 (s, 1NH). 13C NMR (75 MHz, CDCl3) δ 18.2 (CH3), 27.2 (CH2 Trp), 28.3 ((CH3)3), 37.3 (CH2 Tyr), 48.9, 53.3, 55.7 (CHα Ala, Tyr or Trp), 70.0 (CH2 (OBn)), 80.7 (C(CH3)3), 109.5 (aromatic C), 111.5, 115.0, 118.6, 119.5, 121.9, 123.8, 127.5, 127.6, 128.1, 128.6, 130.4 (aromatic CH), 136.1, 137.0, 137.1 (aromatic C), 155.8, 157.8 (Car-O or CO carbamate), 171.9, 172.3, 174.2 (2 CO amide or CO acid). Anal. Calcd. for C35H40N4O7, 1.5H2O: C, 64.11%; H, 6.61%; N, 8.54%. Found: C, 64.19%; H, 6.36%; N, 8.79%.

reactant | N-Boc-Tyr(Bn)-Ala-Trp-OMe | 0.902 mmol, 580 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC)C(=O)OC(C)(C)C | C36H42N4O7
reactant | LiOH | 2 mmol, 1 M, 2 mL | [Li+].[OH-]
reactant | dicyclohexylamine | 0.91 mmol, 0.18 mL | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | ether | 10 mL | CCOCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 mL | CO | CH4O
product | N-Boc-Tyr(Bn)-Ala-Trp-OH | 361 mg, 64% | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C | C35H40N4O7
